US09260440B2
In a 25-mL flask, (R)-methyl 2-(1-(2-methoxy-2-oxoethyl)-2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate (146 mg, 0.44 mmol) was treated with anhydrous MeSO3H (10 mL). The flask was fitted with a reflux condenser and heated to 60° C. for 1 h. Then, the reaction mixture was cooled in an ice-bath and diluted with distilled water (2.0 mL). The pH of the solution was increased to pH-10 by the addition of saturated aq. NaHCO3. The reaction mixture was then extracted with EtOAc (3×20 mL), and the organic extracts were washed with brine (1×20 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography (20 to 60% EtOAc/hexanes) to give (R)-methyl 11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate (58 mg 44%). MS (ESI) m/e [M+1]+ 299.0.

reactant | (R)-methyl 2-(1-(2-methoxy-2-oxoethyl)-2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate | 0.44 mmol, 146 mg | COC(CN1[C@@](CCC1)(C)C=1NC=2C=CC=C(C2C1)C(=O)OC)=O | C18H22N2O4
reactant | MeSO3H | 10 mL | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 2.0 mL | O | H2O
product | (R)-methyl 11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate | 58 mg, 44% | C[C@]12CCCN1CC(C1=C2NC=2C=CC=C(C12)C(=O)OC)=O | C17H18N2O3
